US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(2-pyrrolidin-1-yl-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CV)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 2-Pyrrolidin-1-yl-pyridine-3-carbaldehyde (28.6 mg, 0.163 mmol) were reacted to produce 24 mg (34%) of the title compound. mp: 190° C., 1H NMR (300 MHz, DMSO-d6): 13.02 (s, 1H), 8.21 (m, 1H), 8.02 (s, 1H), 7.71 (d, J=8 Hz, 1H), 6.68 (s, 1H), 7.18 (s, 1H), 7.06 (d, J=8 Hz, 1H), 6.75 (t, 1H), 6.27 (m, 1H), 6.17 (m, 1H), 5.14 (t, J=8 Hz, 1H), 3.32 (s, 3H), 3.29 (s, 2H), 3.08 (m, 2H), 2.85 (s, 1H), 2.71 (s, 1H), 2.55 (d, J=8 Hz, 1H), 2.25 (d, J=8 Hz, 1H), 1.82 (m, 2H), 1.73 (m, 2H), 1.37 (d, J=8 Hz, 1H), 1.09 (t, J=8 Hz, 1H). MS: 494, 496 (M+H), HPLC: 3.19 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 2-Pyrrolidin-1-yl-pyridine-3-carbaldehyde | 0.163 mmol, 28.6 mg | N1(CCCC1)C1=NC=CC=C1C=O | C10H12N2O
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(2-pyrrolidin-1-yl-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 24 mg, 34% | BrC=1C(=C2C(=NC1)NC(=N2)C=2C(=NC=CC2)N2CCCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C23H24BrN7O
